US08623889B2
Step 3: 2-chloro-5-((5-fluoro-4-methylpyridin-3-yl)ethynyl)isonicotinaldehyde
A mixture of 3-ethynyl-5-fluoro-4-methyl-pyridine (240 mg, 1.78 mmol), 5-bromo-2-chloro-pyridine-4-carbaldehyde (392 mg, 1.78 mmol), N,N-diisopropylethylamine (0.62 mL, 3.55 mmol), dichlorobis(triphenylphosphine)palladium(II) (64 mg, 0.089 mmol), and cuprous iodide (17 mg, 0.089 mmol) in dioxane (5 mL) was heated at 60° C. for 1 hour. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (12 g, Silica, 0-70% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a pale yellow solid (380 mg, 78%), which was used in the next step without further purification.

reactant | 3-ethynyl-5-fluoro-4-methyl-pyridine | 1.78 mmol, 240 mg | C(#C)C=1C=NC=C(C1C)F | C8H6FN
reactant | 5-bromo-2-chloro-pyridine-4-carbaldehyde | 1.78 mmol, 392 mg | BrC=1C(=CC(=NC1)Cl)C=O | C6H3BrClNO
reactant | N,N-diisopropylethylamine | 3.55 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.089 mmol, 64 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-5-((5-fluoro-4-methylpyridin-3-yl)ethynyl)isonicotinaldehyde | 380 mg, 78% | ClC=1C=C(C=O)C(=CN1)C#CC=1C=NC=C(C1C)F | C14H8ClFN2O
